US08865713B2
Step C: 1-(1H-Imidazo[4,5-b]quinoxalin-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(1H-Imidazo[4,5-b]quinoxalin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.110 g, 0.360 mmol), aqueous KOH (1M, 3.0 mL) and THF (3.0 mL) was stirred for 4 h. The mixture was concentrated and the aqueous residue was acidified to pH 2 with 1M aqueous HCl. The resulting precipitate was collected by filtration to yield the titled compound (89.0 mg, 89%). MS (ESI/CI): mass calcd. for C13H8N6O2, 280.2; m/z found, 281.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 13.32-12.37 (br m, 1H), 9.03 (s, 1H), 8.19 (s, 1H), 7.94 (d, J=8.2 Hz, 1H), 7.89 (d, J=8.3 Hz, 1H), 7.76 (t, J=7.6 Hz, 1H), 7.61 (t, J=7.0 Hz, 1H).

reactant | 1-(1H-Imidazo[4,5-b]quinoxalin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.360 mmol, 0.110 g | C(C)OC(=O)C=1C=NN(C1)C1=NC=2C(=NC3=CC=CC=C3N2)N1 | C15H12N6O2
reactant | KOH | 1M, 3.0 mL | [OH-].[K+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 1-(1H-Imidazo[4,5-b]quinoxalin-2-yl)-1H-pyrazole-4-carboxylic acid | 89.0 mg, 89% | N1C(=NC=2C1=NC1=CC=CC=C1N2)N2N=CC(=C2)C(=O)O | C13H8N6O2
